US06291452B1
A mixture of 9-ethyl-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide (9.0 g) and acetic anhydride (32 ml) in chloroform (32 ml) was stirred at room temperature overnight. The reaction mixture was evaporated to remove chloroform. Diisopropyl ether was added to the residue to afford powder, which was collected by filtration and washed with diisopropyl ether to give (3RS)-3-acetoxy-5-(2-fluorophenyl)-9-ethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (6.30 g, 61.3%).

reactant | 9-ethyl-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide | 9.0 g | C(C)C1=CC=CC=2C(=[N+](CC(NC21)=O)[O-])C2=C(C=CC=C2)F | C17H15FN2O2
reactant | acetic anhydride | 32 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 32 ml | C(Cl)(Cl)Cl | CHCl3
product | (3RS)-3-acetoxy-5-(2-fluorophenyl)-9-ethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 6.30 g, 61.3% | C(C)(=O)OC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2CC)=O | C19H17FN2O3
